US07956070B2
Step 1: 2,3-Dihydro-2-oxo-4-(trifluoromethyl)-5-thiazolecarboxylic acid
To a solution of ethyl 2,3-dihydro-2-oxo-4-(trifluoromethyl)-5-thiazolecarboxylic acid (Bionet Research, 2.0 g) in THF (20 mL) was added a solution of lithium hydroxide (0.696 g) in water (20 mL). The mixture was stirred at 50° C. for 72 h, cooled to room temperature and filtered. The filtrate was washed with ethyl acetate (10 mL), acidified to pH 3 using dilute hydrochloric acid and extracted with ethyl acetate (2×25 mL). The combined organic extractions were washed with water (2×50 mL), saturated brine solution, dried (Na2SO4), filtered and concentrated in vacuo to give the subtitle compound as a colourless solid (1.583 g).

reactant | ethyl 2,3-dihydro-2-oxo-4-(trifluoromethyl)-5-thiazolecarboxylic acid | 2.0 g | C(C)N1C(SC(=C1C(F)(F)F)C(=O)O)=O | C7H6F3NO3S
reactant | lithium hydroxide | 0.696 g | [OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2,3-Dihydro-2-oxo-4-(trifluoromethyl)-5-thiazolecarboxylic acid | 1.583 g | O=C1SC(=C(N1)C(F)(F)F)C(=O)O | C5H2F3NO3S
